US09283555B2
N-(1-chloroethylidene)-2-ethylbenzenamine (HS Imine I)
Phosphorus pentachloride (8.97 g, 43 mmol) was dissolved in 100 mL of benzene. Under a gentle argon purge, N-(2-ethylphenyl)acetamide (Amide I) (6.52 g, 40 mmol) was added slowly with stirring at room temperature. The yellow solution was refluxed for 2 hours. Benzene was removed in vacuo, yielding a brown oil. The oil was distilled under reduced pressure (45-50° C., 0.10 Torr) affording 6.08 g (84%) of a clear oil. 1H NMR (400 MHz, C6D6): 7.07 (t, 2H), 6.99 (t, 1H), 6.80 (d, 1H), 2.50 (q, 2H), 2.08 (s, 3H), 1.11 (t, 3H).

reactant | Phosphorus pentachloride | 43 mmol, 8.97 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | N-(2-ethylphenyl)acetamide | 40 mmol, 6.52 g | C(C)C1=C(C=CC=C1)NC(C)=O | C10H13NO
solvent | benzene | 100 mL | C1=CC=CC=C1 | C6H6
product | N-(1-chloroethylidene)-2-ethylbenzenamine | 6.08 g, 84% | ClC(C)=NC1=C(C=CC=C1)CC | C10H12ClN
